US09375000B2
Step 2: Synthesis of 1-{2-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoro-methyl)pyrimidin-5-yl}methanamine
2-({2-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoromethyl)pyrimidin-5-yl}methyl)-1H-isoindole-1,3(2H)-dione (2.35 g) was added to ethanol (50 ml), followed by addition of hydrazine hydrate (0.37 ml) at room temperature. The reaction mixture was heated at 80° C. for 6 hours. The solvent was distilled off under reduced pressure, and then t-butyl methyl ether was added. The undissolved solids were removed by filtration, and the target compound was (1.71 g) obtained as a crude product after concentration under reduced pressure.

reactant | 2-({2-[3-(3,4,5-Trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoromethyl)pyrimidin-5-yl}methyl)-1H-isoindole-1,3(2H)-dione | 2.35 g | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=NC=C(C(=N1)C(F)(F)F)CN1C(C2=CC=CC=C2C1=O)=O)C(F)(F)F | C25H15Cl3F6N4O2
reactant | hydrazine hydrate | 0.37 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-{2-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-4-(trifluoro-methyl)pyrimidin-5-yl}methanamine | ClC=1C=C(C=C(C1Cl)Cl)C1(CN(CC1)C1=NC=C(C(=N1)C(F)(F)F)CN)C(F)(F)F | C17H13Cl3F6N4
